US04093725
7-(2,3-Epoxypropoxy)-1(2H)-phthalazinone was reacted with t-butylamine in a similar manner to that described in Example 1(iv) to give 7-(3-t-butylamino-2-hydroxypropoxy)-1(2H)-phthalazinone, the hydrochloride of which was recrystallised from ethanol and had m.p. 263°-264° (decomp).

reactant | 7-(2,3-Epoxypropoxy)-1(2H)-phthalazinone | O1C(COC2=CC=C3C=NNC(C3=C2)=O)C1 | C11H10N2O3
reactant | t-butylamine | C(C)(C)(C)N | C4H11N
product | 7-(3-t-butylamino-2-hydroxypropoxy)-1(2H)-phthalazinone | C(C)(C)(C)NCC(COC1=CC=C2C=NNC(C2=C1)=O)O | C15H21N3O3
